US04812585
In 50 ml of toluene were dissolved 7.31 g (0.05 mole) of monomethylglutaric acid, 4.43 g (0.085 mole) of furan and 14.39 g (0.06 mole) of dichloroacetic anhydride. To the resulting solution was added 0.71 g of boron trifluoride-diethyl ether complex and the resulting mixture was then stirred at 50° C. for 3 hours. After completion of the reaction, the reaction solution was cooled and washed successively with 5% aqueous sodium carbonate solution and water. The organic layer was concentrated under reduced pressure and the resulting concentrated residue was then purified by silica gel-filled column chromatography to obtain 9.54 g of 2-(4-methoxycarbonylbutyryl)furan.

reactant | monomethylglutaric acid | 0.05 mole, 7.31 g | CC(CC(=O)O)CC(=O)O | C6H10O4
reactant | furan | 0.085 mole, 4.43 g | O1C=CC=C1 | C4H4O
reactant | dichloroacetic anhydride | 0.06 mole, 14.39 g | ClC(C(=O)OC(C(Cl)Cl)=O)Cl | C4H2Cl4O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methoxycarbonylbutyryl)furan | 9.54 g, Yield: 94.5% | COC(=O)CCCC(=O)C=1OC=CC1 | C10H12O4
